US08445501B2
cis-4-(2-Cyclopropylmethoxy-5-methoxy-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid {4-[(1-hydroxy-cyclopropanecarbonyl)-amino]-cyclohexyl}-amide
Starting from cis-4-(2-cyclopropylmethoxy-5-methoxy-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (4-amino-cyclohexyl)-amide (example A154) and acetic acid 1-chlorocarbonyl-cyclopropyl ester the title compound is obtained as colorless solid.

reactant | cis-4-(2-cyclopropylmethoxy-5-methoxy-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (4-amino-cyclohexyl)-amide | N[C@H]1CC[C@H](CC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=CC(=C2)OC)OCC2CC2 | C24H29N5O3
reactant | acetic acid 1-chlorocarbonyl-cyclopropyl ester | ClC(=O)C1(CC1)OC(C)=O | C6H7ClO3
product | cis-4-(2-Cyclopropylmethoxy-5-methoxy-phenyl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid {4-[(1-hydroxy-cyclopropanecarbonyl)-amino]-cyclohexyl}-amide | OC1(CC1)C(=O)N[C@H]1CC[C@H](CC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=CC(=C2)OC)OCC2CC2 | C28H33N5O5
